US04045572
2-aminomethyl-5-chlorobenzhydrol (10 g; 0.04 mole) in 100 ml methanol and 2 ml triethylamine was treated dropwise with a solution of phenethyl isothiocyanate (8.6 g; 0.053 mole) in 25 ml of methanol. After 16 hours at room temperature the reaction mixture was evaporated and the residue was extracted with petroleum ether. The residual oil was recrystallized from diisopropyl ether to yield 1-(4-chloro-2-(α-hydroxybenzyl)benzyl)-3-phenethylthiourea as a white powder (M.Pt. 97° -- 101° ).

reactant | 2-aminomethyl-5-chlorobenzhydrol | 0.04 mole, 10 g | NCC1=C(C(C2=CC=CC=C2)O)C=C(C=C1)Cl | C14H14ClNO
reactant | phenethyl isothiocyanate | 0.053 mole, 8.6 g | C(CC1=CC=CC=C1)N=C=S | C9H9NS
solvent | methanol | 100 ml | CO | CH4O
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 25 ml | CO | CH4O
product | 1-(4-chloro-2-(α-hydroxybenzyl)benzyl)-3-phenethylthiourea | ClC1=CC(=C(CNC(=S)NCCC2=CC=CC=C2)C=C1)C(C1=CC=CC=C1)O | C23H23ClN2OS
